US06720452B2
a) [2-[4-Chloro-3-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)carbamoyl-phenylamino]-ethylamino]-acetic Acid, 1,1-dimethylethyl ester
Prepared according to the method of Example 1 using 2-chloro-5-(2-chloroethyl)amino-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide (WO 99/29661) (0.2 g) and tertbutyl glycine (0.26 g) to deliver the sub-title compound as a brown foam (0.10 g).

reactant | 2-chloro-5-(2-chloroethyl)amino-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide | 0.2 g | ClC1=C(C(=O)NCC23CC4CC(CC(C2)C4)C3)C=C(C=C1)NCCCl | C20H26Cl2N2O
reactant | tertbutyl glycine | 0.26 g | C(C)(C)(C)NCC(=O)O | C6H13NO2
product | [2-[4-Chloro-3-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)carbamoyl-phenylamino]-ethylamino]-acetic Acid, 1,1-dimethylethyl ester | 0.10 g | ClC1=C(C=C(C=C1)NCCNCC(=O)OC(C)(C)C)C(NCC12CC3CC(CC(C1)C3)C2)=O | C26H38ClN3O3
